US05015644
1-Cyano-1-(4-nitrophenyl)cyclopentane
To 79.2 g (1.65 m) of 50% sodium hydride suspended in 750 ml DMSO was added dropwise a mixture of 121.6 g (0.75 mole) p-nitrophenylacetonitrile and 161.7 ml (0.75 mole) 1,4 dibromobutane in 750 ml of a 50:50 mixture of DMSO, diethyl ether. The temperature was held between 25°-30° C. The reaction mixture was stirred at room temperature overnight then cooled to 10° C. Thirty-eight ml of isopropanol was added followed by the cautious addition of 2.8 l of water. Air was bubbled through the black reaction mixture to remove most of the ether. Black solid was filtered and taken up in diethyl ether. The ether solution was washed two times with 2 N HCl and two times with brine, dried over MgSO4, and concentrated in vacuo. The resulting dark solid was extracted six times with boiling hexane. The hexane solution was concentrated to a small volume to yield 127.5 g of product, melting point 76°-77° C.

reactant | sodium hydride | 79.2 g | [H-].[Na+]
reactant | p-nitrophenylacetonitrile | 0.75 mole, 121.6 g | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
reactant | 1,4 dibromobutane | 0.75 mole, 161.7 ml | BrCCCCBr | C4H8Br2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | DMSO | 750 ml | CS(=O)C | C2H6OS
solvent | water | 2.8 l | O | H2O
solvent | isopropanol | Thirty-eight ml | C(C)(C)O | C3H8O
product | 1-Cyano-1-(4-nitrophenyl)cyclopentane | 127.5 g | C(#N)C1(CCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H12N2O2
